US07713993B2
Synthesis of methyl 5-chloro-2-(4-dimethylaminophenyl)pentanoate
A solution of diisopropylamine (0.391 mL) in THF (10 mL) was stirred at −30° C. for 30 minutes. n-Butyl lithium (2.66 M solution in hexane, 1 mL) was added to the solution, and the reaction solution was stirred for one hour. Thereafter, the reaction solution was stirred at −78° C. for 30 minutes. Then, a solution of methyl (4-dimethylaminophenyl)acetate (468 mg) in THF (5 mL) was added dropwise to the solution, and the reaction solution was stirred at the same temperature for two hours. To the reaction solution was added 1-bromo-3-chloropropane at −78° C., and the reaction solution was stirred for one hour. Then, the reaction solution was stirred for 42 hours while gradually heating the solution to room temperature. Thereafter, ethyl acetate and saturated sodium bicarbonate water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane+ethyl acetate) to obtain 174.7 mg of the title compound. The property values of the compound are as follows.

reactant | diisopropylamine | 0.391 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-Butyl lithium | 2.66 M, 1 mL | C(CCC)[Li]
reactant | methyl (4-dimethylaminophenyl)acetate | 468 mg | CN(C1=CC=C(C=C1)CC(=O)OC)C | C11H15NO2
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 5-chloro-2-(4-dimethylaminophenyl)pentanoate | 174.7 mg | ClCCCC(C(=O)OC)C1=CC=C(C=C1)N(C)C | C14H20ClNO2
